US06617339B1
3-(3-Fluoro-4-(4-methyl-imidazol-1-yl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one
5-Benzyloxycarbonylamino-2-(4-methyl-imidazol-1-yl)fluorobenzene (54 g, 0.166 M) was dissolved in a mixture of dry tetrahydrofuran (600 ml) and 1,3-dimethyl-2,4,5,6-tetrahydro-2(1H)-pyrimidinone (100 ml) under nitrogen, cooled to −70°, and treated with a solution of n-butyllithium (1.6 M in isohexane, 114 ml), over 30 minutes. After stirring for 30 minutes at −70°, a solution of (R)-glycidylbutyrate (26.35 g, 0.183 M) in dry tetrahydrofuran (50 ml) was added over 15 minutes. Stirring was continued for 16 hours allowing the temperature to rise to ambient. The mixturc was treated with aqueous sodium bicarbonate (5%, 500 ml) and EtOAc (800 ml), and undissolved solid was removed and washed well with diethyl ether to give title product (16.3 g). The aqueous layer was further extracted with EtOAc (2×750 ml), the combined extracts dried (magnesium sulfate) and evaporated, and the residue triturated with diethyl ether. The resulting solid was recrystallisd from ethanol to give more product (10.9 g). MS (ESP): 292 (MH+) for C14H14FN3O3.

reactant | 5-Benzyloxycarbonylamino-2-(4-methyl-imidazol-1-yl)fluorobenzene | 0.166 M, 54 g | C(C1=CC=CC=C1)OC(=O)NC=1C=CC(=C(C1)F)N1C=NC(=C1)C | C18H16FN3O2
reactant | n-butyllithium | 1.6 M, 114 ml | C(CCC)[Li]
reactant | (R)-glycidylbutyrate | 0.183 M, 26.35 g | C([C@H]1CO1)OC(CCC)=O | C7H12O3
reactant | sodium bicarbonate | 500 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-2,4,5,6-tetrahydro-2(1H)-pyrimidinone | 100 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | EtOAc | 800 ml | CCOC(=O)C | C4H8O2
product | 3-(3-Fluoro-4-(4-methyl-imidazol-1-yl)phenyl)-5(R)-hydroxymethyloxazolidin-2-one | 16.3 g | FC=1C=C(C=CC1N1C=NC(=C1)C)N1C(O[C@H](C1)CO)=O | C14H14FN3O3
